US04719211
2,3,4,9-Tetrahydro-2-[4-(4-Pyridinyl)butyl]-1H-Pyrido[3,4-b]Indole Dihydrochloride
The title compound was prepared following the procedure of Example 1 and using 4-pyridinylbutyl bromide hydrobromide instead of 4-picolyl chloride hydrochloride, and was converted to the dihydrochloride, mp 259°-261° C.

reactant | 4-pyridinylbutyl bromide hydrobromide | Br.N1=C(C=CC=C1)CCCCBr
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2,3,4,9-Tetrahydro-2-[4-(4-Pyridinyl)butyl]-1H-Pyrido[3,4-b]Indole Dihydrochloride | Cl.Cl.N1=CC=C(C=C1)CCCCN1CC=2NC3=CC=CC=C3C2CC1 | InChI=1S/C20H23N3.2ClH/c1-2-7-19-17(6-1)18-10-14-23(15-20(18)22-19)13-4-3-5-16-8-11-21-12-9-16;;/h1-2,6-9,11-12,22H,3-5,10,13-15H2;2*1H
